Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine Containing Agents Classifier / Uroxatral / Simvastatin / 
Zetia / Coreg / Celexa
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
Cardiac catherization with percutaneous intervention

 
History of Present Illness:
This is a ___ yo male with pmh of STEMI x ___ s/p stent, htn, GERD 
now with acute onset SOB within last week. As recently as 1 week 
ago pt was able to go on a 15 mile bike ride with no problems. 
He now describes that after walking up a flight of stairs from 
the basement he felt so short of breath that he feared he might 
die. At times he feels nauseous with the SOB. Pt denies chest 
pain/pressure. He does get some epigastric discomfort that feels 
more GI-related than cardiac. 
.
He also relates a chronic problem with swallowing- he feels as 
though food and pills are sitting in the throat after swallowing 
and gets a "funny feeling" in the epigastric region. This 
problem has been worked up with repeat endoscopies as recently 
as ___ and pt is on omeprazole. 
.
Cardiac history
- Acute STEMI ___, status post PTCA/stent of total proximal 
LCX occlusion with two Cypher ___ in series.
- Status post non-DES 90% OM3, ___.
- Repeat catheterization ___: Codominant system, LMCA 
normal, LCX with patent stents, small OM stent restenotic 
(approximately 60% in-stent restenosis), 40% proximal LAD, 50% 
distal LAD, FFR across LAD lesion greater than 0.9, RCA small 
and nondominant.
- Recurrent inferolateral STEMI ___. Subtotal occlusion of 
distal LCX beyond previously placed Cypher stent. Distal LCX 
treated with 2.5 x 5-mm vision stent.
.
In the ED, initial vitals were T: 97.6 HR: 49 BP: 131/65 RR: 18 
O2Sat: 100% on RA. CK and troponins were drawn. EKG checked. Pt 
was noted to be bradycardic between 32-47 while sleeping. No 
changes in BP. Exercise stress test was done and patient was 
admitted for further evaluation and management.  

 
Past Medical History:
Prior MI x2, STEMI 
Hypertension
Dyslipidemia
Hiatal hernia
GERD
BPH
Anxiety
Cholelithiasis
Colon polyps
Liver lesion
Right shoulder rotator cuff tear s/p repair ___
 
Social History:
___
Family History:
Mother with CAD and DM2. Father with CVA late in life. Sister 
without medical problems.
 
Physical Exam:
VS -  98.1  136/78  49  18  99% RA
Gen: WDWN muscular man in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. EOMI. MM somewhat dry. No 
xanthalesma.  
Neck: Supple with no appreciable JVD. 
CV: Bradycardic, normal S1, S2. No m/r/g. No thrills, lifts. No 
S3 or S4.  
Chest: Breathing is unlabored. CTAB, no crackles, wheezes or 
rhonchi. No pain on palpation. 
Abd: Soft, NTND. No HSM or tenderness. 
Ext: No c/c/e. No femoral bruits.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
 
Pertinent Results:
___ 12:15PM   WBC-6.5 RBC-4.80 HGB-15.0 HCT-40.5 MCV-84 
MCH-31.3 MCHC-37.1* RDW-13.0 PLT COUNT-167
___ 12:15PM   GLUCOSE-95 UREA N-16 CREAT-0.9 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-26 ANION GAP-13
___ 12:15PM   CK(CPK)-114 cTropnT-<0.01 CK-MB-5
___ 06:15PM   cTropnT-<0.01 CK-MB-4
.
CXR ___
FINDINGS: There is no acute cardiopulmonary process. There are 
degenerative changes seen in the thoracic spine along with loss 
of vertebral body height at multiple levels, unchanged since the 
prior examination. 
.
Cardiac cath ___
COMMENTS:      
1. Selective coronary angiography of this left dominant system 
revealed one vessel coronary artery disease. The LMCA was 
normal. The LAD was a small vessel with mild disease. The 
mid-LCX had a 90% stenosis after OM3. The distal LCX had a 
40-50% stenosis. The proximal LCX stents were patent with mild 
instent restenosis. 
2. Limited resting hemodynamics revealed mild systemic arterial 
hypertension with BP 145/63 mmHg. Left sided filling pressures 
were elevated with an LVEDP of 23 mmHg. There was no transaortic 
gradient on pullback of catheter from LV to aorta. 
3. Left ventriculography demonstrated hypokinesis of inferior LV 
wall with calculated LVEF of 50%. 
FINAL DIAGNOSIS:     
1. One vessel coronary artery disease. 
2. Mild LV systolic dysfunction worse in the inferior LV wall. 
3. Mild to moderate diastolic dysfunction. 
.
Exercise test ___
___ year old male with history of CAD (h/o MI x 2, multiple 
stents)referred for evaluation of shortness of breath. The 
patient underwent ___ protocol and completed 2.75 minutes 
___ METS), which is poor-to-fair exercise capacity. The 
patient noted substernal chest tightness and difficulty 
breathing at apporximately 2 minutes into the protocol. The 
discomfort increased and the patient requested study 
termination. The sensation resolved by 1 minute into recovery. 
No significant ST changes from baseline were noted. The rhythm 
was sinus with occasional isolated polymorphic VPBs and 
occasional APBs. Blood pressure increased with the limited 
exercise. 
IMPRESSION: Exercise-limiting anginal-type symptoms in the 
setting of
no ischemic ST changes. 
.  
EGD ___
Small hiatal hernia
Mucosa suggestive of short segment ___ esophagus (biopsy)
Polyps in the stomach body
Erosion, nodularity, friability and erythema in the whole 
stomach compatible with gastritis (biopsy)

 
Brief Hospital Course:
# Shortness of breath: 
- Pt had history of inferolateral MIs, and at that time he did 
not have exhibit any typical anginal chest pain/pressure, but 
rather experienced lightheadedness and dizziness with heaviness 
in the arms. 
- Pt previously had very good exercise tolerance as evidenced in 
Exercise MIBI in ___. Pt stated he was on a 15 mile 
bike ride as recently as 1 week prior to presentation, but since 
then, has been getting extremely SOB with much less exertion, 
such as climbing just one flight of stairs. 
- The fact that the patient's exercise tolerance dropped so 
acutely was concerning for a new myocardial infarct or ischemia. 
Exercise stress test with no imaging was done while being 
observed in the ED. It did not reveal any new ischemic changes 
on the EKG although the test had to be terminated due to extreme 
SOB.
- Pt's extensive cardiac history and symptomology were very 
concerning for ongoing ischemia despite flat cardiac enzymes. Pt 
underwent cardiac catherization with stent deployment to mid 
LCx. (Please see cardiac cath report in OMR for details, as 
final report is not available at this time). Pt tolerated the 
procedure well, and was discharged home the next day with 
instructions to continue ASA and Plavix and a follow-up 
appointment with his cardiologist. 
.
# GASTROESOPHAGEAL REFLUX: pt had a history of GERD and feelings 
of dysphagia. Pt had undergone endoscopies as recently as ___ which revealed many polyps, small hiatal hernia, and a 
short segment of ___ esophagus. Some of pt's symptoms may 
have been GI-related (food getting stuck, etc). Pt was 
instructed to follow up with his gastroenterologist to receive 
further evaluation if symptoms persist. 
.
# BENIGN PROSTATIC HYPERTROPHY: Pt has been followed by an 
outpatient urologist. The condition appeared stable. Pt was 
continued on his home medications.

 
Medications on Admission:
asa 81
avodart 0.5 daily
doxazosin 2 mg dialy
Gas X PRN
metoprolol 12.5 bid
nitro SL 0.4 PRN
omeprazole 20 BID
Plavix 75 daily 
Omega-3 fatty acids
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Avodart 0.5 mg Capsule Sig: One (1) Capsule PO once a day.  
3. Doxazosin 1 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
4. Gas-X  Oral
5. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
7. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
8. Omega-3 Fatty Acids     Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
9. Nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1) tablets 
Sublingual Take 1 tab for chest pain. ___ take 1 more tablet if 
chest pain is not relieved after 3 minutes. as needed for chest 
pain: Call your cardiologist or go to ER if chest pain persists 
after two Nitro tablets.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Coronary artery disease 
Secondary:
Gastroesophageal reflux

 
Discharge Condition:
Good, with stable vital signs

 
Discharge Instructions:
You were admitted to the hospital for evaluation of shortness of 
breath. EKG and lab tests showed that you did not have a heart 
attack. Exercise stress demonstrated that your exercise capacity 
was significantly reduced since ___ of last year. Given 
your significant cardiac history, your clinical symptoms were 
concerning for worsening coronary artery disease. You underwent 
cardiac catherization during which a stent was deployed to open 
a vessel narrowing.
.
No changes have been made to your medication regimen. Please 
resume taking all of your previous medications. 
.
If you experience chest pain, chest pressure that radiates to 
the left arm, lightheadedness, or any other symptoms that 
concern you, please call your cardiologist or return to the 
emergency room. 
 
Followup Instructions:
___